US06083943
(17) (2S*,3S*,4R*,5R*)-3-Amino-1-benzyloxycarbonyl-4-hydroxymethyl-5-methyl-2-phenylpyrrolidine
To a stirred solution of (2S*,3S*,4R*,5R*)-1-benzyloxycarb-onyl-4-(benzyloxycarbonyloxy)-methyl-3-[N-(t-butoxycarbonyl)-amino]-5-methyl-2-phenylpyrrolidine (0.80 g, 1,82 mmol) in AcOEt (15 ml) was added conc. HCl aq. (8.0 ml) at room temperature; on the addition evolution of CO2 gas took place. After stirring at room temperature for 1.5 hours, the reaction mixture was concentrated in vacuo to give a syrupy residue. This was basified to pH 10-11 with 20% NaOH aq. solution, and then extracted with AcOEt. The combined AcOEt extracts were washed with sat. NaCl aq. solution (×1), dried (K2CO3), and concentrated in vacuo to give title compound (0.61 g, 98%): IRmax (film): 3380(m), 1700(s), 1682(s), 1605(m), 1585(m), 1110(s), 750(m), 700(s) cm-1 ; 1H-NMR δ: 7.52-7.13(m, 9H), 6.99(br.s, 1H), 5.05(br.s, 3H), 4.92(d, J=8.1 Hz, 1H), 3.89(dd, J=10.4, 2.9 Hz, 1H), 3.76(dd, J=10.4, 10.4 Hz, 1H), 3.60-3.45 (m, 1H), 3.50(dd, J=11.2, 8.1 Hz, 1H), 2.10-1.70(m, 3H), 1.61(br.d, J=4.3 Hz, 3H) ppm. This was employed in the next step without further purification.

reactant | (2S*,3S*,4R*,5R*)-1-benzyloxycarb-onyl-4-(benzyloxycarbonyloxy)-methyl-3-[N-(t-butoxycarbonyl)-amino]-5-methyl-2-phenylpyrrolidine | 1,82 mmol, 0.80 g | C(C1=CC=CC=C1)OC(=O)N1[C@]([C@@H]([C@H]([C@H]1C)OC(=O)OCC1=CC=CC=C1)NC(=O)OC(C)(C)C)(C1=CC=CC=C1)C | C33H38N2O7
reactant | HCl | 8.0 ml | Cl | ClH
reactant | CO2 | C(=O)=O | CO2
reactant | NaOH | [OH-].[Na+]
solvent | AcOEt | 15 ml | CCOC(=O)C | C4H8O2
product | (2S*,3S*,4R*,5R*)-3-Amino-1-benzyloxycarbonyl-4-hydroxymethyl-5-methyl-2-phenylpyrrolidine | 0.61 g, 98% | N[C@@H]1[C@@H](N([C@@H]([C@@H]1CO)C)C(=O)OCC1=CC=CC=C1)C1=CC=CC=C1 | C20H24N2O3
